### PR TITLE
feat: Galois group of `x^n - x - 1`

### PR DESCRIPTION
**Pull request by tb65536**
---

- [ ] depends on: #40955
- [x] depends on: #41051
- [x] depends on: #43353
- [x] depends on: #43355

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Selmer.lean [hunk 1]
```diff
@@ -75,4 +279,173 @@ theorem X_pow_sub_X_sub_one_irreducible_rat (hn1 : n ≠ 1) : Irreducible (X ^ n
...
+        (Polynomial.Gal.rootsEquivRoots p E₁)).permCongrHom.toMonoidHom.comp
+        (Gal.galActionHom p E₂)
+       := by
+  ext
+  simp [permCongrHom, Perm.permCongrHom, Gal.galActionHom, Polynomial.Gal.smul_def]
+
+attribute [-instance] Polynomial.Gal.galActionAux -- should be local to PolynomialGaloisGroup.lean
+
+theorem X_pow_sub_X_sub_one_gal :
+    Function.Bijective (Gal.galActionHom (X ^ n - X - 1 : ℚ[X]) ℂ) := by
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Polynomial/Selmer.lean:81]: Question: would one want to have this framed in this way or as a `MulEquiv`?

File: Mathlib/RingTheory/Polynomial/Selmer.lean [hunk 2]
```diff
@@ -75,4 +279,173 @@ theorem X_pow_sub_X_sub_one_irreducible_rat (hn1 : n ≠ 1) : Irreducible (X ^ n
...
+  sorry
+
+  -- have : ∀ p : Nat.Primes, ∀ q : factors (map (algebraMap ℤ R) p)
+  -- roots lie in the ring of integers OK
+  -- if q is a prime idea of OK, then there is a ring homomorphism to the finite field OK/q
+  -- the whole Galois group acts on OK
+  -- the decomposition group acts on OK/q
+  -- the inertia group acts trivially on OK/q
+  --
+  -- there are n roots in OK
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Polynomial/Selmer.lean]: The same argument also works in the geometric context, for galois groups over Q(X) (see Serre Topics in Galois theory, §4.4) and I hope it will be possible to set up such a framework.
